US08748440B2
Preparation of N-[1-(3-biphenyl-4-yl-4-oxo-3,4-dihydroquinazolin-2-yl)ethyl]-4-tert-butyl-N-methylbenzenesulfonamide and Related Compounds
An oven-dried flask charged with N-{1-[3-(4-bromophenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-4-tert-butyl-N-methylbenzenesulfonamide (103 mg, 0.19 mmol) was diluted with 2 mL of a nitrogen-purged solution of DME/H2O (1:1). The resulting reaction mixture was then treated with K2CO3 (78.8 mg, 0.57 mmol) and phenyl boronic acid (46.3 mg, 0.38 mmol) at room temperature under a nitrogen atmosphere. In a separate oven dried vial containing triphenyl phosphine (43.9 mg, 0.17 mmol) and Pd2 dba3:CHCl3 (17 mg, 0.019 mmol) was placed 1 mL of the nitrogen purged DME/H2O solution (1:1). The contents of the vial were stirred until the Pd(0) was completely dissolved. The premixed palladium solution was then added to the reaction mixture and heated to 70° C. under nitrogen for 16 h. The reaction mixture was cooled to room temperature and concentrated under vacuum. The resulting residue was then taken up in EtOAc and filtered through a plug of silica. The filtrate was concentrated under vacuum to afford a crude residue that was purified by chromatography (silica gel, 0-75% EtOAC:Hex) to afford the desired product as a white solid (74 mg, 71% yield). 1H-NMR (CDCl3): δ 8.26 (d, 1H), 7.88 (d, 1H), 7.76 (d, 1H), 7.67 (m, 4H), 7.45 (m, 7H), 7.23 (m, 3H), 4.99 (q, 1H), 3.20 (s, 3H), 1.33 (d, 3H), 1.16 (s, 9H); MS (ESI) 552 (MH+).

reactant | N-{1-[3-(4-bromophenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-4-tert-butyl-N-methylbenzenesulfonamide | 0.19 mmol, 103 mg | BrC1=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C(C)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C27H28BrN3O3S
reactant | K2CO3 | 0.57 mmol, 78.8 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | phenyl boronic acid | 0.38 mmol, 46.3 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenyl phosphine | 0.17 mmol, 43.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CHCl3 | 0.019 mmol, 17 mg | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd2 dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[1-(3-biphenyl-4-yl-4-oxo-3,4-dihydroquinazolin-2-yl)ethyl]-4-tert-butyl-N-methylbenzenesulfonamide | 74 mg, 71% yield | C1(=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C(C)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C)C1=CC=CC=C1 | C33H33N3O3S
